US08202858B2
4-(2-Carboxy-ethyl)-3-methyl-benzoic Acid Methyl Ester
Trifluoroacetic acid (40 ml) was added slowly to a stirred solution of 4-(2-tert-butoxycarbonyl-ethyl)-3-methyl-benzoic acid methyl ester from Example E30.2 (4.9 g, 17.6 mmol) in dichloromethane (80 ml) at room temperature. The mixture was stirred for 2 h then concentrated in vacuo and azeotroped with dichloromethane. The residue was recrystallised in EtOAc to yield the title compound (2.77 g, 71%).

reactant | Trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(2-tert-butoxycarbonyl-ethyl)-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)C)=O | C16H22O4
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(2-Carboxy-ethyl)-3-methyl-benzoic Acid Methyl Ester | 2.77 g, 71% | COC(C1=CC(=C(C=C1)CCC(=O)O)C)=O | C12H14O4
